US07371869B2
To a suspension of (S)-2-amino-3-(4-hydroxy-3-nitro-phenyl)-propionic acid ethyl ester hydrochloride (3.63 g, 12.5 mmol) in acetonitrile (125 mL) was added diisopropylethylamine (2.4 mL, 13.8 mmol) and di-tert-butyldicarbonate (3.00 g, 13.7 mmol). The mixture was stirred at room temperature for 72 hours the poured into water (500 mL), diluted with brine (100 mL) and extracted with ethyl acetate (3×200 mL). The combined organic extracts were washed with 0.1 M aqueous hydrochloric acid (2×100 mL), brine (200 mL), dried over sodium sulfate, filtered and concentrated in vacuo to give crude (S)-2-tert-butoxycarbonylamino-3-(4-hydroxy-3-nitro-phenyl)-propionic acid ethyl ester as a dark yellow solid which was used without further purification (4.63 g).

reactant | (S)-2-amino-3-(4-hydroxy-3-nitro-phenyl)-propionic acid ethyl ester hydrochloride | 12.5 mmol, 3.63 g | Cl.C(C)OC([C@H](CC1=CC(=C(C=C1)O)[N+](=O)[O-])N)=O
reactant | diisopropylethylamine | 13.8 mmol, 2.4 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | di-tert-butyldicarbonate | 13.7 mmol, 3.00 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | water | 500 mL | O | H2O
solvent | acetonitrile | 125 mL | C(C)#N | C2H3N
solvent | brine | 100 mL | [Cl-].[Na+].O
product | (S)-2-tert-butoxycarbonylamino-3-(4-hydroxy-3-nitro-phenyl)-propionic acid ethyl ester | C(C)OC([C@H](CC1=CC(=C(C=C1)O)[N+](=O)[O-])NC(=O)OC(C)(C)C)=O | C16H22N2O7
